US07223833B1
Pyridoxal Conjugated PNA Oligomer
PNA oligomer SEQ ID NO:63 or PNA oligomer SEQ ID NO:64 is treated according to the procedure of Example 62 to convert the N—PHTH group to the free amine. The resulting PNA oligomer is dissolved in 100 microliters of water, and 100 ml of 1M NaOAc buffer (pH 5.0) is added followed by 5 mg of pyridoxal hydrochloride (24 μmols) and 50 μl of 60 mM NaCNBH3 solution. The solution is vortexed, left overnight, and is then passed through a Sephadex G-25 column and further purified in an analytical HPLC column.

reactant | NaOAc | 1M, 100 ml, pH 5.0 | CC(=O)[O-].[Na+]
reactant | pyridoxal hydrochloride | 24 μmols, 5 mg | CC1=NC=C(C(=C1O)C=O)CO.Cl
reactant | NaCNBH3 | 60 mM, 50 μl | [BH3-]C#N.[Na+]
solvent | water | 100 microliters | O | H2O
product | Pyridoxal | CC1=C(C(=C(C=N1)CO)C=O)O | C8H9NO3
